US08791142B2
Step 1) N′-hydroxy-2-(hydroxymethyl)isonicotinimidamide
A solution of 2-(hydroxymethyl)isonicotinonitrile (ChemPacific, 0.496 g; 3.7 mmol) and 50% aqueous hydroxylamine (1.2 mL) in ethanol (4.8 mL) was heated at 75° C. for 18 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was poured through a hydrophobic frit and evaporated in vacuo to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ 10.02 (1 H, s), 8.50 (1 H, d, J=5.2 Hz), 7.80 (1 H, s), 7.52 (1 H, dd, J=5.2, 1.7 Hz), 5.99 (2 H, br s), 5.45 (1 H, t, J=5.8 Hz), 4.60 (2 H, d, J=5.8 Hz).

reactant | 2-(hydroxymethyl)isonicotinonitrile | 3.7 mmol, 0.496 g | OCC=1C=C(C#N)C=CN1 | C7H6N2O
reactant | hydroxylamine | 1.2 mL | NO | H3NO
solvent | ethanol | 4.8 mL | C(C)O | C2H6O
product | N′-hydroxy-2-(hydroxymethyl)isonicotinimidamide | ON=C(C1=CC(=NC=C1)CO)N | C7H9N3O2
